US06495565B2
Lithium hydroxide hydrate (3.48 g, 82.9 mmol) was added slowly to a solution of methyl thioglycolate (4.0 g, 37.7 mmol) and ethyl crotonate (4.3 g, 37.7 mmol) in DMF (60 mL), cooled to 0° C. The reaction was allowed to warm to room temperature, stir for 18 h, taken up in ethyl acetate, washed with 1 N HCl (until they remained acidic), washed with water, brine, dried over magnesium sulfate and concentrated in vacuo to give the ethyl 4-oxotetrahydro-5-methyl-3-thiophenecarboxylate (6.76 g, 100%) as an oil.

reactant | Lithium hydroxide hydrate | 82.9 mmol, 3.48 g | O.[OH-].[Li+]
reactant | methyl thioglycolate | 37.7 mmol, 4.0 g | C(CS)(=O)OC | C3H6O2S
reactant | ethyl crotonate | 37.7 mmol, 4.3 g | C(\C=C\C)(=O)OCC | C6H10O2
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-oxotetrahydro-5-methyl-3-thiophenecarboxylate | 6.76 g, 100% | O=C1C(CSC1C)C(=O)OCC | C8H12O3S
